US04542225
Modified J5 (8 mg, 0.05 μmol) in 5 mM bistris-acetate buffer, pH 5.8 (15 mL), containing NaCl (50 mM), and EDTA (1 mM) is mixed at 0° C. with a 5-fold molar excess of complex 7 (8 mg of gelonin) in 100 mM sodium phosphate buffer, pH 7.0 (11 mL), containing EDTA (1 mM) and then with 0.5 M triethanolamine-HCl buffer, pH 8.0, (0.15 mL) to give a final pH of 7.0. The mixture is incubated at 0° C. for 2 hours and then freshly prepared N-ethylmaleimide (1 mM) in ethanol (0.26 mL) is added to block any remaining free sulfhydryl groups. After 30 minutes at 0° C., the solution is maintained on ice while concentrating to 13 mL using an immersible ultrafiltration unit (Millipore Corporation, CX-10 filter). The mixture is then applied to a column (95 cm×2.6 cm) of Sephacryl S-300 equilibrated at 4° C. with 5 mM sodium phosphate buffer, pH 7.0, containing NaCl (15 mM), and NaN3 (0.4 mM). Gel filtration separates the conjugate and native J5 (Mr =160,000) from non-cross-linked gelonin [Mr =30,500; Thorpe et al., (1981) Euro. J. Biochem. 116:447-454], and from some high molecular weight aggregates. The major peak, corresponding to a molecular weight range of 160,000 to 220,000 and shown by polyacrylamide/sodium dodecyl sulfate gel electrophoresis to contain both native J5 and cross-linked conjugate 8 is pooled and passed through a column (5 mL bed volume) of carboxymethyl cellulose (Whatman CM-52) equilibrated in the same buffer. The column is washed with 1 column volume of buffer and the eluants combined. Under these precise conditions of ionic strength and pH, native J5 is bound by the column while cross-linked complexes of type 8 pass through without retention. Monoclonal antibodies are heterogeneous with respect to charge [Cowan et al. (1973) FEBS Lett. 30:343-346]: the sample of J5 used in these experiments is, prior to modification, passed through a carboxymethyl cellulose column under identical conditions. Only the J5 that bound to the column is used in cross-linking experiments. It is eluted from the column with buffer containing 1.0 M NaCl (yield 66%).

reactant | NaCl | 50 mM | [Na+].[Cl-]
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | bistris acetate | 5 mM | C(CO)N(CCO)C(CO)(CO)CO.C(C)(=O)[O-]
solvent | sodium phosphate | 100 mM | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | triethanolamine-HCl | 0.5 M | Cl.N(CCO)(CCO)CCO | InChI=1S/C6H15NO3.ClH/c8-4-1-7(2-5-9)3-6-10;/h8-10H,1-6H2;1H
